US04962115
To a stirred mixture of 18.3 parts of 4-(4-fluoro-2-nitrophenoxy)cyclohexanol, 6.23 parts of pyridine and 135 parts of trichloromethane were added dropwise, during a 10 minutes period, 9 parts of methanesulfonyl chloride. Upon completion, stirring was continued overnight at room temperature. The whole was further stirred and refluxed for 2 hours. The reaction mixture was evaporated and the residue was stirred in water. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column-chromatography over silica gel using trichloromethane as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 1,1'-oxybisethane, yielding 8.5 parts of 4-(4-fluoro-2-nitrophenoxy)cyclohexanol methanesulfonate (ester); mp. 111.7° C. (intermediate 102).

reactant | 4-(4-fluoro-2-nitrophenoxy)cyclohexanol | FC1=CC(=C(OC2CCC(CC2)O)C=C1)[N+](=O)[O-] | C12H14FNO4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 4-(4-fluoro-2-nitrophenoxy)cyclohexanol methanesulfonate | CS(=O)(=O)OC1CCC(CC1)OC1=C(C=C(C=C1)F)[N+](=O)[O-] | C13H16FNO6S
